US04725610
2-(5-Methyl-2-phenyl-4-oxazolyl)ethanol (6.0 g) and 4-fluorobenzonitrile (5.4 g) were dissolved in tetrahydrofurane (70 ml ), and 60% sodium hydride in oil (1.4 g) was added to the solution under ice-cooling with vigorous stirring. The reaction mixture was stirred at room temperature for 18 hours and poured into ice-cold water (0.5 l). The aqueous mixture was neutralized with acetic acid, and the crystals which separated out were collected by filtration to give 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzonitrile (7.0 g, 77.5%). Recrystallization from ether-hexane afforded colorless prisms, m.p. 119°-120° C. Elemental analysis for C19H16N2O2 ; Calcd: C, 74.98; H, 5.30; N, 9.20. Found: C, 74.90; H, 5.01; N, 9.28.

reactant | 2-(5-Methyl-2-phenyl-4-oxazolyl)ethanol | 6.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | 4-fluorobenzonitrile | 5.4 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofurane | 70 ml | O1CCCC1 | C4H8O
product | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzonitrile | 7.0 g, 77.5% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C#N)C=C1 | C19H16N2O2
